US06268389B1
57 g of 3-dimethylamino-2-methyl-aniline, 1.15 litres of acetone, 36.6 g of KSCN and 43.8 ml of benzoylchloride are refluxed together for 3 hours. After cooling to ambient temperature the reaction mixture is poured onto 2.4 kg of crushed ice. The precipitate obtained is heated to 60° C. for 2 hours together with 85 g of KOH, 85 ml of water and 255 ml of ethanol. After the addition of 850 ml of water the ethanol is distilled off under reduced pressure. After the resulting precipitate has been worked up, 72 g of N-(3-dimethylamino-2-methylphenyl)-thiourea are obtained.

reactant | 3-dimethylamino-2-methyl-aniline | 57 g | CN(C=1C(=C(N)C=CC1)C)C | C9H14N2
reactant | KSCN | 36.6 g | C(#N)[S-].[K+]
reactant | benzoylchloride | 43.8 ml | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | KOH | 85 g | [OH-].[K+]
solvent | ethanol | C(C)O | C2H6O
solvent | water | 850 ml | O | H2O
solvent | ethanol | 255 ml | C(C)O | C2H6O
solvent | water | 85 ml | O | H2O
solvent | acetone | 1.15 litres | CC(=O)C | C3H6O
product | N-(3-dimethylamino-2-methylphenyl)-thiourea | 72 g | CN(C=1C(=C(C=CC1)NC(=S)N)C)C | C10H15N3S
